US04220647
A mixture of 1-(N-benzyloxycarbonyl-N-isopropylaminomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (3.5 g), conc. hydrochloric acid (20 ml) and acetic acid (20 ml) was refluxed for 1 hour. The reaction mixture was concentrated to dryness under reduced pressure and the residue was crystallized with a mixture of acetone and water. The crystals were recrystallized from a mixture of methanol and ether to give 1-(N-isopropylaminomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline dihydrochloride (1.15 g), mp 268° to 270° C. (dec).

reactant | 1-(N-benzyloxycarbonyl-N-isopropylaminomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 3.5 g | Cl.C(C1=CC=CC=C1)OC(=O)N(C(C)C)CC1NCCC2=CC(=C(C=C12)O)O
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 1-(N-isopropylaminomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline dihydrochloride | 1.15 g | Cl.Cl.C(C)(C)NCC1NCCC2=CC(=C(C=C12)O)O | InChI=1S/C13H20N2O2.2ClH/c1-8(2)15-7-11-10-6-13(17)12(16)5-9(10)3-4-14-11;;/h5-6,8,11,14-17H,3-4,7H2,1-2H3;2*1H
